US08039472B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(S)-4-[3-(3-benzyl-ureido)-propyl]-imidazolidin-(2E)-ylidene]-amide
To a solution of 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(S)-4-(3-amino-propyl)-imidazolidin-(2E)-ylidene]-amide (Ex. 31) (0.040 g, 0.128 mmol) in DMF (2 ml) is added 1,1′-carbonyldiimidazole (0.023 g, 0.141 mmol) and the reaction mixture is stirred for 1 hour at room temperature. Benzylamine (0.014 ml, 0.128 mmol) is added and additional benzylamine (0.014 ml, 0.128 mmol) is added at hourly intervals for a total of 3 hours. Purification is by diluting the reaction with 2N NaOH (30 ml) and extracting the product into EtOAc (40 ml). The organic phase is washed with 2N NaOH (30 ml), dried over MgSO4 and the solvent evaporated in vacuo to yield a yellow oil. The oil is dissolved in methanol (0.75 ml) and diethyl ether (5 ml) added to triturate a yellow solid. This solid is filtered off and the filtrate formed a further precipitate. This yellow solid is collected by filtration and rinsed with diethyl ether to give the title compound; [M+H]+ 446.1

reactant | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(S)-4-(3-amino-propyl)-imidazolidin-(2E)-ylidene]-amide | 0.128 mmol, 0.040 g | NCCC[C@@H]1N\C(\NC1)=N\C(=O)C1=NC(=C(N=C1N)N)Cl | C11H17ClN8O
reactant | 1,1′-carbonyldiimidazole | 0.141 mmol, 0.023 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Benzylamine | 0.128 mmol, 0.014 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | benzylamine | 0.128 mmol, 0.014 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | methanol | 0.75 ml | CO | CH4O
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(S)-4-[3-(3-benzyl-ureido)-propyl]-imidazolidin-(2E)-ylidene]-amide | C(C1=CC=CC=C1)NC(NCCC[C@@H]1N\C(\NC1)=N\C(=O)C1=NC(=C(N=C1N)N)Cl)=O | C19H24ClN9O2
